US05583146
C. (S)-2-[[[1-Oxo-4-[[(phenylmethoxy)carbonyl]amino]butyl]amino]methyl]-1-pyrrolidinecarboxylic acid, 1,1-dimethyl-ethyl ester
Part B N-BOC-L-proline methylamine (1.04 g, 5.2 mmol) and N-CBZ-4-aminobutyric acid (1.24 g, 5.2 mmol) were dissolved in dimethyl formamide (DMF) (20 mL) at room temperature (RT). HOBT (702 mg, 5.2 mmol), WSC (995 mg, 5.2 mmol) and NMM (570 μL, 5.2 mmol) were added. The reaction was stirred for 16 hours (h), partitioned between ethyl acetate(50 mL) and 10% KHSO4 (100 mL). The aqueous layer was extracted with ethyl acetate (2×50 mL), and the organic layers were combined. The combined organic layers were washed with saturated NaHCO3 (50 mL) and saturated NaCl (50 mL), dried over magnesium sulfate and concentrated in vacuo to provide an oil. The crude material was purified by chromatography on silica gel. Elution with ethyl acetate:hexanes(2:1) followed by ethyl acetate gave title compound, (1.809 g, 83%) as a viscous oil which was characterized by NMR and used in the next step.

reactant | N-BOC-L-proline methylamine | 5.2 mmol, 1.04 g | CN.C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1
reactant | N-CBZ-4-aminobutyric acid | 5.2 mmol, 1.24 g | C(=O)(OCC1=CC=CC=C1)NCCCC(=O)O | C12H15NO4
reactant | HOBT | 5.2 mmol, 702 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 5.2 mmol, 995 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NMM | 5.2 mmol, 570 μL | CN1CCOCC1 | C5H11NO
solvent | dimethyl formamide | 20 mL | CN(C=O)C | C3H7NO
product | (S)-2-[[[1-Oxo-4-[[(phenylmethoxy)carbonyl]amino]butyl]amino]methyl]-1-pyrrolidinecarboxylic acid, 1,1-dimethyl-ethyl ester | 1.809 g, 83% | O=C(CCCNC(=O)OCC1=CC=CC=C1)NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C22H33N3O5
